US05994368
A mixture of 2-hydroxypryidine (2.40 g), ethyl 4-iodobenzoate (6.97 g), potassium carbonate (3.83 g) and copper (253 mg) in N,N-dimethylformamide (12 ml) was stirred for 4 hours at 175° C. under nitrogen atmosphere. Insoluble material was filtered off, and the filtrate was concentrated in vacuo. To the residue was added ethyl acetate and 1N hydrochloric acid, the organic layer was washed with water, saturated sodium bicarbonate solution and brine, dried over magnesium sulfate and concentrated in vacuo to give ethyl 4-(2-oxo-1,2-dihydropyridin-1yl)benzoate (2.18 g) as brown powder.

reactant | 2-hydroxypryidine | 2.40 g | OC1=NC=CC=C1 | C5H5NO
reactant | ethyl 4-iodobenzoate | 6.97 g | IC1=CC=C(C(=O)OCC)C=C1 | C9H9IO2
reactant | potassium carbonate | 3.83 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 12 ml | CN(C=O)C | C3H7NO
catalyst | copper | 253 mg | [Cu] | Cu
product | ethyl 4-(2-oxo-1,2-dihydropyridin-1yl)benzoate | 2.18 g | O=C1N(C=CC=C1)C1=CC=C(C(=O)OCC)C=C1 | C14H13NO3
